US08486996B2
5-Chloro-2-(2-morpholinobenzoyl)-benzofuran
A solution of ethyl 5-chlorobenzofuran-2-carboxylate (350 mg, 1.56 mmol) in THF (10 ml) is added at −70° C. to a THF solution of lithiated 4-chloropyridine (1.8 mmol prepared according to G. Quéguiner et al., Synthesis 1986, 886-891). The mixture is allowed to reach room temperature within 16 hours before quenching with acetic acid. The product is extracted with chloroform. Drying and chromatography on silicagel gives the title compound.

reactant | ethyl 5-chlorobenzofuran-2-carboxylate | 1.56 mmol, 350 mg | ClC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H9ClO3
reactant | 4-chloropyridine | 1.8 mmol | ClC1=CC=NC=C1 | C5H4ClN
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-Chloro-2-(2-morpholinobenzoyl)-benzofuran | ClC=1C=CC2=C(C=C(O2)C(C2=C(C=CC=C2)N2CCOCC2)=O)C1 | C19H16ClNO3
